US07981903B2
To a solution of 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,9-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (300 mg, 0.445 mmol) in THF (5 mL) was added ammonium hydroxide (27% aqueous) (100 mL, large excess). The resulting mixture was let stir at rt for 16 h at which time it was diluted with ethyl acetate and washed with water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure. The residue was purified via chromatography on SiO2 and afforded 6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluorobenzamide (133 mg, 0.193 mmol) as an off white solid. (ESIMS (M+H)+=691)

reactant | 5-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-8,9-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.445 mmol, 300 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC=C(C(=C4C(N31)=O)F)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C33H29F2N7O5S
reactant | ammonium hydroxide | 100 mL | [OH-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-({2-{[1-(N,N-dimethylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluorobenzamide | 0.193 mmol, 133 mg | CN(CC(=O)N1CCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=CC=C(C(=C2C(=O)N)F)F)OC)C | C33H32F2N8O5S
